data/oMe_Silver.jsonl
{"reaction_id": "NR-107_1-OC_2-C(=O)OC_3-c1ccc(C)cc1_4-CC(C)C_5-CC_6-c1ccc(OC)cc1C_7-C(C)CC","level": "medium","name": "Hofmann Elimination","reactants_smiles": ["C(OC)(C(=O)OC)C(c1ccc(C)cc1)(CC(C)C)[N+](CC)(c1ccc(OC)cc1C)C(C)CC","[OH-]"],"products_smiles": ["C(=C(c1ccc(C)cc1)CC(C)C)(OC)C(=O)OC"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(c1ccc(C)cc1)CC(C)C)(OC)C(=O)OC","step_weight": 0,"rationale": "Hydroxide abstracts the least hindered β-hydrogen anti-periplanar to the bulky ammonium group; the excellent leaving ability of the quaternary ammonium drives E2 elimination, yielding the less substituted alkene favored by steric effects."}],"description": "Under strong base and heat, the quaternary ammonium group undergoes Hofmann elimination, favoring the less substituted alkene due to steric hindrance and anti-periplanar geometry requirements. Hydroxide abstracts a β-proton, facilitating elimination of the bulky ammonium leaving group."}
{"reaction_id": "NR-222_1-c1ccc(C(F)(F)F)cc1_2-c1ccc(N(C)C)cc1_3-c1ccc(F)cc1_4-C(C)C","level": "medium","name": "Pinacol Coupling","reactants_smiles": ["C1=CC=C(C=C1)C(=O)"],"products_smiles": ["C(O)(c1ccc(C(F)(F)F)cc1)(C(O)(c1ccc(C(F)(F)F)cc1)C(c1ccc(N(C)C)cc1)(c1ccc(F)cc1)C(C)C)C(c1ccc(N(C)C)cc1)(c1ccc(F)cc1)C(C)C"],"conditions": "Mg","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "[CH](c1ccc(C(F)(F)F)cc1)O[Mg]O[CH]C(c1ccc(C(F)(F)F)cc1)","step_weight": 0,"rationale": "Mg donates electrons to the carbonyls, forming ketyl radicals stabilized by resonance with the aromatic ring; radical–radical coupling is favored due to high radical concentration and proximity, forming a new C–C bond."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)(C(c1ccc(C(F)(F)F)cc1)O)O","step_weight": 0,"rationale": "The alkoxide oxygens, strongly basic after coupling, are protonated under workup conditions, driven by the thermodynamic stability of neutral diols and the high basicity of the alkoxide intermediates."}],"description": "Under Mg-mediated conditions, the carbonyl groups are reduced to ketyl radicals, which couple to form a C–C bond between the former carbonyl carbons. Subsequent protonation of the alkoxide intermediates yields the vicinal diol product characteristic of the pinacol coupling."}
{"reaction_id": "NR-211_1-C=CC_2-C(C)(C)C_3-c1ccc(OC)cc1_4-c1ccccc1","level": "hard","name": "Passerini Reaction","reactants_smiles": ["C(=O)(C=CC)C(C)(C)C","[C-]#[N+]c1ccc(OC)cc1","O=C(O)c1ccccc1"],"products_smiles": ["O=C(c1ccccc1)OC(C(=O)Nc1ccc(OC)cc1)(C=CC)C(C)(C)C"],"conditions": "acid","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(C=CC)C(C)(C)C","step_weight": 0,"rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbon and making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(C=CC)(C(C)(C)C)C(#[N+]c1ccc(OC)cc1)","step_weight": 0,"rationale": "The isocyanide carbon, being nucleophilic due to its adjacent positive nitrogen, attacks the activated carbonyl carbon, forming a nitrilium intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(c1ccccc1)OC(=[N]c1ccc(OC)cc1)C(C=CC)(C(C)(C)C)O","step_weight": 0,"rationale": "The carboxylic acid oxygen attacks the electrophilic nitrilium carbon, favored by resonance stabilization of the resulting intermediate."},{"step": 4,"type": "proton_transfer","subtype": "intramolecular_proton_transfer","intermediate_smiles": "[OH]C2(c1ccccc1)OC(=[N]c1ccc(OC)cc1)C(C=CC)(C(C)(C)C)O2","step_weight": 0,"rationale": "Intramolecular proton transfer stabilizes charges and positions the leaving group for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(c1ccccc1)OC(C(=O)Nc1ccc(OC)cc1)(C=CC)C(C)(C)C","step_weight": 0,"rationale": "Elimination of water occurs as the leaving group is stabilized by adjacent carbonyl, yielding the thermodynamically stable α-acyloxy amide."}],"description": "Under acidic conditions, the Passerini reaction proceeds via activation of the carbonyl, nucleophilic attack by isocyanide, and subsequent trapping by a carboxylic acid. Proton transfers and elimination steps drive the formation of the α-acyloxy amide product through stabilized intermediates."}
